US05489593
1-[4-(1-Methylethyl)amino-3-pyridazinyl]piperazine (II)
Following the general procedure of PREPARATION 28 and making non-critical variations but starting with 1-[5-chloro-4-(1-methylethyl)amino-3-pyridazinyl]piperazine (PREPARATION 32, 1.7 g) and triethylamine (0.81 g), the title compound is obtained, NMR (CDCl3) 1.28, 2.06, 3.05, 3.11, 3.59, 4.75, 6.39, and 8.49 δ; CMR (CDCl3) 22.2, 43.2, 46.2, 50.6, 103.7, 138.7, 148.4 and 154.5 δ.

reactant | 1-[5-chloro-4-(1-methylethyl)amino-3-pyridazinyl]piperazine | 1.7 g | ClC=1C(=C(N=NC1)N1CCNCC1)NC(C)C | C11H18ClN5
solvent | triethylamine | 0.81 g | C(C)N(CC)CC | C6H15N
product | 1-[4-(1-Methylethyl)amino-3-pyridazinyl]piperazine | CC(C)NC1=C(N=NC=C1)N1CCNCC1 | C11H19N5
